US03957814
(3,4-dimethyl-1-(α,4-dimethylbenzyl)-pyrazol-5-one) ##SPC15##
30 g of α-methyl-4-methylbenzylhydrazine in ethanol were added to a solution of 28.8 g (0.2 mol) of α-methylacetoacetic acid ethyl ester in 40 ml of ethanol under N2 gas; during the addition, the temperature rose to 70°C. After completion of the addition, the reaction mixture was heated for 2 hours under reflux.

reactant | α-methyl-4-methylbenzylhydrazine | 30 g | CC(C1=CC=C(C=C1)C)NN | C9H14N2
reactant | α-methylacetoacetic acid ethyl ester | 0.2 mol, 28.8 g | C(C)OC(C(C(=O)C)C)=O | C7H12O3
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3,4-dimethyl-1-(α,4-dimethylbenzyl)-pyrazol-5-one | CC=1NN(C(C1C)=O)C(C1=CC=C(C=C1)C)C | C14H18N2O
